US09403831B2
(S)-2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-ol 26 mg (0.066 mmol) was dissolved in DMF 2 ml, and 4-(2-chloroethyl)morpholinehydrochloride 14.8 mg (0.079 mmol) and potassium carbonate 28 mg (0.19 mmol) were added, followed by stirring at 80° C. overnight. After the completion of the reaction, the reaction mixture was extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (MeOH:MC=1:10), to give (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(2-morpholinoethoxy)pyrimidin-2-yl)morpholine 5 mg (15%).

reactant | (S)-2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-ol | 0.066 mmol, 26 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)O | C17H18N10O2
reactant | 4-(2-chloroethyl)morpholinehydrochloride | 0.079 mmol, 14.8 mg | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 0.19 mmol, 28 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(2-morpholinoethoxy)pyrimidin-2-yl)morpholine | 5 mg, 15% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)OCCN2CCOCC2 | C23H29N11O3
